delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 30.294998
Rb B C 29.841252
Rc C A 29.766856
Cload B 0 5.97e-06
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i]
.endc
.end
